US05438140
Preparation of ethyl 4-pyridiniumcrotonate bromide
The title compound was prepared as described in Example 1 from pyridine and ethyl 4-bromocrotonate in a yield of 70%.

reactant | ethyl 4-bromocrotonate | BrC/C=C/C(=O)OCC | C6H9BrO2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | ethyl 4-pyridiniumcrotonate bromide | yield of 70% | [Br-].C(\C=C\C)(=O)[O-].C(C)C1=NC=C[CH2+]=C1.C(C)C1=NC=C[CH2+]=C1 | InChI=1S/2C7H10N.C4H6O2.BrH/c2*1-2-7-5-3-4-6-8-7;1-2-3-4(5)6;/h2*4-6H,2-3H2,1H3;2-3H,1H3,(H,5,6);1H/q2*+1;;/p-2/b;;3-2+;
